US04144344
A solution of 16.7 g of 1-[2-hydroxy-3-(2-methoxyphenyloxy)-propyl]-piperidine-4-one and 10.5 g of N-(2-aminoethyl)-aniline in 250 ml of methanol, with the addition of 1 g of a 5% platinum on charcoal catalyst is hydrogenated at room temperature and under normal pressure until 1 molar equivalent of hydrogen has been taken up. The catalyst is thereafter removed by filtration and the filtrate is concentrated under reduced pressure. The residue is freed from excess starting material in a bulb tube at 0.3 mm Hg and 120° C oven temperature to yield as distillation residue 1-[2-hydroxy-3-(2-methoxyphenyloxy)-propyl]-4-(2-anilino-ethylamino)-piperidine, which can be used without further purification.

reactant | 1-[2-hydroxy-3-(2-methoxyphenyloxy)-propyl]-piperidine-4-one | 16.7 g | OC(CN1CCC(CC1)=O)COC1=C(C=CC=C1)OC | C15H21NO4
reactant | N-(2-aminoethyl)-aniline | 10.5 g | NCCNC1=CC=CC=C1 | C8H12N2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 ml | CO | CH4O
catalyst | platinum on charcoal | [Pt] | Pt
product | 1-[2-hydroxy-3-(2-methoxyphenyloxy)-propyl]-4-(2-anilino-ethylamino)-piperidine | OC(CN1CCC(CC1)NCCNC1=CC=CC=C1)COC1=C(C=CC=C1)OC | C23H33N3O3
